US07323431B2
Preparation of 2,2-dimethyl-1-methoxy-3-[(trimethylsilyl)oxy]propane
1 g of 2,2-dimethyl-3-methoxy-1-propanol was dissolved in 20 ml of dichloromethane. The resultant solution was cooled in ice-water bath to below 5° C., and 1.65 ml of triethyl amine was added thereto. After stirring the mixture 5 minutes, 1.29 ml of trimethylsilyl chloride was added drop-wise to the reaction mixture, and the mixture was stirred in ice-water bath for further 2 hours, and at room temperature for further 1 hour. The reaction mixture was washed with water, and the organic layer separated was dried over anhydrous sodium sulfate. After filtration, the filtrate was evaporated to give 1.33 g of concentrate. The crude product was purified by column chromatography using petroleum ether as eluent, to give colorless pure compound.

reactant | 2,2-dimethyl-3-methoxy-1-propanol | 1 g | CC(CO)(COC)C | C6H14O2
reactant | triethyl amine | 1.65 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 1.29 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2,2-dimethyl-1-methoxy-3-[(trimethylsilyl)oxy]propane | CC(COC)(CO[Si](C)(C)C)C | C9H22O2Si
